US07655671B2
Synthesis of 17(R)-4,5α-epoxy-3-hydroxy-14β-methoxy-17-methyl-6-oxo-17-(2-phenylethyl)morphinanium-iodide (compound 52)
A solution of 4,5α-epoxy-3-hydroxy-14β-methoxy-17-(2-phenylethyl)morphinan-6-one (0.32 g, 0.7 mmol) and methyl iodide (0.56 g, 3.92 mmol) in 6 ml of water-free acetonitrile was stirred under N2 40° C. (bath temperature) for 2 days and then evaporated down. The residue (0.32 g of brown oil) was purified using column chromatography (silica gel; CH2Cl2/MeOH 250:2). Yield: 0.07 g (16%) of colourless crystals of the compound 52. Fp. 180-181° C.; MS (CI): 420 (M++1); IR (KBr): 1727 (C═O) cm−1; 1H-NMR (D2O, δ in ppm): 7.17-7.14 (m, 5 arom. H), 6.56 (s, 2 arom. H), 5.18 (s, CH-5), 3.64 (s, CH3N+, axial), 3.44 (s, OCH3).

reactant | 4,5α-epoxy-3-hydroxy-14β-methoxy-17-(2-phenylethyl)morphinan-6-one | 0.7 mmol, 0.32 g | O1C2=C(C=CC=3C[C@@H]4[C@@]5(CCC([C@H]1[C@@]5(C23)CCN4CCC4=CC=CC=C4)=O)OC)O | C25H27NO4
reactant | methyl iodide | 3.92 mmol, 0.56 g | CI | CH3I
solvent | water | 6 ml | O | H2O
product | 17(R)-4,5α-epoxy-3-hydroxy-14β-methoxy-17-methyl-6-oxo-17-(2-phenylethyl)morphinanium-iodide | [I-].O1C2=C(C=CC=3C[C@@H]4[C@@]5(CCC([C@H]1[C@@]5(C23)CC[N@+]4(CCC4=CC=CC=C4)C)=O)OC)O | InChI=1S/C26H29NO4.HI/c1-27(14-11-17-6-4-3-5-7-17)15-13-25-22-18-8-9-19(28)23(22)31-24(25)20(29)10-12-26(25,30-2)21(27)16-18;/h3-9,21,24H,10-16H2,1-2H3;1H/t21-,24+,25+,26-,27-;/m1./s1
